US07615648B2
To a solution of 3-{[(2,4-dichlorobenzyl)-(3-oxo-butyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester (190 mg, 0.46 mmol) in Et2O (4 mL) is added MeMgBr (3.0 M in Et2O, 0.92 mmol). The resulting mixture is stirred at room temperature for one hour. The reaction is quenched with saturated ammonium chloride and extracted with EtOAc (3×). The combined organic extracts are dried (Na2SO4), filtered and concentrated. The crude product is purified by flash chromatography on silica gel eluting with 5% EtOH (10% NH4OH)/chloroform to yield 138 mg (70%) of 3-{[(2,4-dichlorobenzyl)-(3-hydroxy-3-methyl-butyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester. 1H NMR (400 MHz, CD3OD) δH: 7.49-7.47 (2H, m), 7.36-7.34 (1H, m), 4.0-3.96 (2H, m), 3.67 (2H, s), 3.57-3.53 (2H, m), 2.9-2.82 (1H, m), 2.75-2.73 (2H, m), 2.67 (2H, t, J=7.0 Hz), 1.69 (2H, t, J=7.3 Hz), 1.46 (9H, s), 1.1 (6H, s). Mass spectrum (ion spray): m/z=431.2 (M+H).

reactant | 3-{[(2,4-dichlorobenzyl)-(3-oxo-butyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 190 mg | C(C)(C)(C)OC(=O)N1CC(C1)CN(CCC(C)=O)CC1=C(C=C(C=C1)Cl)Cl | C20H28Cl2N2O3
reactant | MeMgBr | 0.92 mmol, 3.0 M | C[Mg+].[Br-]
solvent | Et2O | 4 mL | CCOCC | C4H10O
product | 3-{[(2,4-dichlorobenzyl)-(3-hydroxy-3-methyl-butyl)-amino]-methyl}-azetidine-1-carboxylic acid tert-butyl ester | 138 mg, 70% | C(C)(C)(C)OC(=O)N1CC(C1)CN(CCC(C)(C)O)CC1=C(C=C(C=C1)Cl)Cl | C21H32Cl2N2O3
